US08604029B2
Triethylamine (1.69 mL, 12.2 mmol) was added dropwise to a solution of 4-hydroxy-2,6-dimethylpyridine (0.50 g, 4.07 mmol) in dichloromethane (50 mL) at 0° C. After 10 min, trifluoromethanesulfonic anhydride (1.0 mL, 6.10 mmol) was slowly added followed by a catalytic amount of 4-dimethylaminopyridine (DMAP) and stirred at room temperature for 6 hrs under nitrogen. The reaction mixture was diluted with dichloromethane and washed with water (4×50 mL). The organic layer was separated, washed with sodium bicarbonate solution (4×50 mL), brine (4×50 mL), dried over sodium sulfate and filtered. The solvent was evaporate and the residue purified by column chromatography over silica gel (60-120 mesh) using 10% ethyl acetate:hexane as eluent to afford trifluoro-methanesulfonic acid 2,6-dimethyl-pyridin-4-yl ester (0.82 g, 79%) as a light brown liquid.

reactant | Triethylamine | 12.2 mmol, 1.69 mL | C(C)N(CC)CC | C6H15N
reactant | 4-hydroxy-2,6-dimethylpyridine | 4.07 mmol, 0.50 g | OC1=CC(=NC(=C1)C)C | C7H9NO
reactant | trifluoromethanesulfonic anhydride | 6.10 mmol, 1.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | trifluoro-methanesulfonic acid 2,6-dimethyl-pyridin-4-yl ester | 0.82 g, 79% | CC1=NC(=CC(=C1)OS(=O)(=O)C(F)(F)F)C | C8H8F3NO3S
